US04460800
To a solution of 1088 grams (8 moles) of 3-hydroxyacetophenone in 13.25 liters of tetrahydrofuran was added in a nitrogen atmosphere, over 40 minutes, a solution of 10,000 grams (20 moles) of a commercially prepared 2 M solution of methylmagnesium bromide in a mixture of equal weights of tetrahydrofuran and toluene. The mixture was stirred with a turbine stirrer during the addition. Stirring was continued as the mixture was heated under reflux (70° C.) for three hours. A solution of 5.6 liters of saturated aqueous ammonium chloride solution in 2.4 liters of water was then added and the mixture was stirred for one hour at room temperature. It was allowed to stand for one hour, the aqueous and organic layers were separated and the organic layer was washed with 7.5 liters of water, after which the tetrahydrofuran was removed by distillation. There was added 7600 ml. of a 10% aqueous solution of sodium hydroxide, and the mixture was again distilled until all tetrahydrofuran and toluene had been removed. The aqueous residue was filtered and acidified with concentrated hydrochloric acid. The precipitated solids were filtered, washed with cold water and dried to yield the desired 3-hydroxyphenyldimethylcarbinol. The yield was 976 grams, or 80% of theoretical.

reactant | 3-hydroxyacetophenone | 8 moles, 1088 grams | CC(=O)C=1C=CC=C(C1)O | C8H8O2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ammonium chloride | 5.6 liters | [Cl-].[NH4+]
solvent | tetrahydrofuran | 13.25 liters | O1CCCC1 | C4H8O
solvent | water | 2.4 liters | O | H2O
product | 3-hydroxyphenyldimethylcarbinol | OC=1C=C(C=CC1)C(O)(C)C | C9H12O2
